US06689779B2
In 20 ml of pyridine was dissolved 2.19 g of N-t-butoxycarbonyl-L-alanine and the solution was added with 1 g of 2-amino-5-bromopyridine, 2.77 g of 1-(3-dimethyl(aminopropyl)-3-ethylcarbodimide hydrochloride and 1.41 g of 4-dimethylaminopyridine individually and stirred at room temperature for 15 hours. Water was then added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer thus separated was washed with brine, dehydrated, filtered, and concentrated in vacuo to give 0.713 g of 2-(N-t-butoxycarbonyl-L-alanylamino)-5-bromopyridine. This compound was dissolved, along with 0.714 g of (S)-[N-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl acetamide, in 20 ml of dimethylformamide. Reaction was conducted at 100° C. for 4 hours in the presence of 0.6 ml of triethyl amine with the catalytic aid of 0.36 g of dichlorobistriphenylphosphine palladium (II) with stirring after their addition at room temperature. Water was then added to the reaction mixture, followed by the extraction with ethyl acetate. The organic layer thus separated was washed with brine, dehydrated, filtered and concentrated in vacuo. Recrystallization of the concentrate gave 0.27 g of (S)-[N-3-(4-(2-(N-t-buxotycarbonyl-L-alanylaminopyridin-5-yl)-3-fluorophenyl)-2-oxo-5-oxazolidinyl)methyl acetamide. This compound was reacted with 0.15 ml of trimethylsilyl iodide in chloroform at room temperature for 30 min under a nitrogen atmosphere. Following the addition of chloroform, the organic layer thus separated was washed with brine, dehydrated, filtered, and concentrated in vacuo. The concentrate was subjected to column chromatography to produce the title compound. 50 mg.

reactant | N-t-butoxycarbonyl-L-alanine | 2.19 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 2-amino-5-bromopyridine | 1 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | Water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 1.41 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(N-t-butoxycarbonyl-L-alanylamino)-5-bromopyridine | 0.713 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC1=NC=C(C=C1)Br | C13H18BrN3O3
